US07262206B2
(32) 1,5-diacetyl-3-(1-hydroxy-hexylidene)-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and hexanoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | hexanoic acid | C(CCCCC)(=O)O | C6H12O2
product | 1,5-diacetyl-3-(1-hydroxy-hexylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(CCCCC)O)=O | C18H21NO4
